2171-01-03 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CVL in RIJ placed w/o complication
   Lidocaine gtt d/c'd
   Spike temp of 101.2 rectally, BCX sent, deveressed with tylenol
   Only infrequent PVCs on telemetry
   Allergies:
   Codeine
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-1-3**] 01:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-1-3**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 72 (71 - 92) bpm
   BP: 88/52(60) {86/52(60) - 117/71(78)} mmHg
   RR: 21 (19 - 29) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
    CVP: 7 (7 - 11)mmHg
   Total In:
                                                                    206 mL
                                                                    135 mL
   PO:
   TF:
   IVF:
                                                                    206 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                    400 mL
   Urine:
                                                                    345 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -139 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: Diaphoretic male, appears uncomfortable, moaning in pain.
   Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Right pupil RRL, Anasacoria of left
   pupil EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI laterally displaced RR, normal S1, ? paradoxically spit
   s2, + s4, [**2-14**] early intiated blowing murmur loudest at apex. No
   thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Trace UE edema, no pre-tibeal edema
   SKIN: ? infected papule in LUE, LLE slightly cool
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Labs / Radiology
   320 K/uL
   11.9 g/dL
   103 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.6 mEq/L
   33 mg/dL
   98 mEq/L
   135 mEq/L
   34.7 %
   16.1 K/uL
        [image002.jpg]
                            [**2171-1-2**]  10:22 PM
                            [**2171-1-3**]  05:01 AM
   WBC
   16.0
   16.1
   Hct
   38.9
   34.7
   Plt
   361
   320
   Cr
   1.2
   Glucose
   103
   Other labs: PT / PTT / INR:15.2/23.5/1.3, ALT / AST:36/51, Alk Phos / T
   Bili:82/0.9, Differential-Neuts:90.1 %, Lymph:6.3 %, Mono:2.8 %,
   Eos:0.6 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:479 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   ALT: 36
   AP: 82
   Tbili: 0.9
   Alb: 3.1
   AST: 51
   LDH: 479
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   TSH:2.2
   Imaging: CXR Resident Wet Read: No evidence of fluid overload, no
   infiltrates, CVL in SVC/RA, BIV leads seen
   Microbiology: BCX and UCX NGTD
   Assessment and Plan
   Pt is a 74 y/o male with a hx of idopathic CM, CHF w/ reported BIV/ICD/
   VT on amioderone, p/w VT and ICD firings to an OSH, now transfered for
   further care.
   .
   # CORONARIES:  Patient denies history of MI or CP, and no hx of CAD per
   OSH records.  Will try to tease out more history from PCP on friday.
   .
   # PUMP:  Per report, hx of idiopathic CM, unknown EF.  Patient
   currently euovelemic on exam, with no impressive LE edema, no fluid
   overload on CXR, CVP at 7cm.  Patient supposedly has Biv-ICD.  Patient
   with cold extremitys, with evidence of poor systolic function.
   - cont home regimen of [**Last Name (un) **], Carvedilol, Spironolactone, and Lasix
   - hold digoxin in setting of VT
   - clarify patients PMHx in am
   - TTE on friday
   .
   # RHYTHM:  Patient with multiple recurrent VT and ICD firings, but no
   EKG of VT in records or EPS performed at OSH.  Unclear if patient
   symptomatic during episodes.  Per records, some attempt at ablation,
   but aborted [**2-10**] to hypoxia/hypotension.  Patient currently in
   A-sense/V-paced rhythm.  Was transfered on amioderone/lidocaine gtt.
   Only PVC's on telemetry since admission.  Poor LV lead placement.
   - cont amio, but switch to PO
   - lidocaine d/c'd
   - interrogate device
   - will further clarify plan in AM, but will attempt to get additional
   OSH records
   - unclear why patient was on coumadin, will look for evidence of AF on
   device
   - will deactivate LV lead
   .
   # Fever:  Patient with temp of 101.2 rectally, now devervessed.  Also
   with leukocytosis and left shift, which was attributed to stress at
   OSH.  No apparent source of infection, CXR w/o infiltrates, UA
   unremarkable, and BCX no growth to date.  Patient appears unwell, is
   diagphoretic, but hemodynamically stable.  Concern for possible
   endocarditis with prominent MR.
   - CIS
   - hold abx untils source presents itself, or patient becomes unstable
   - f/u CXs
   - tylenol PRN
   - hold off on EPS tomorrow
   - possible TEE tomorrow
   .
   # Hypothyroidism:  Patient with markedly elevated TSH at OSH.  Normal
   here.
   .
   #  Hyperlipidemia:  will cont lipitor
   .
   #  Axiety/?AMS:  Patient on benzo's at OSH.  While appears anxious,
   unclear if MS altered from baseline.
   - hold anxietolytics for now
   - will check lytes, LFts, CBC
   .
   FEN: NPO for now
   ACCESS: Only with 24 gauge in foot, and unable to get in other PIVs,
   will placed CVL
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Pain managment with tylenol
   -Bowel regimen
   CODE: Full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2171-1-2**] 07:30 PM
   Multi Lumen - [**2171-1-3**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-01-04 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had a few short runs of NSVT- asymptomatic, VSS; lidocaine 50mg IV
   x1 and then gtt started.  Again had repeat 14 sec run of NSTV while
   using commode,, ATP paced out of it.   Had approximately 5 more
   episodes (not shocked) thus Amio bolus 150mg and then amiodarone gtt
   started. [**First Name8 (NamePattern2) **] [**Doctor Last Name 2830**] plan for Ablation tomorrow.   Pacemaker
   interrogated: appears that both of his leads are functioning and
   pacing; LV lead turned off.  No evidence of A.fibb on interrogation
   however can only see episodes since last interrogation ([**12-18**]) thus
   unclear if has h/o a.fibb; .  CXR showed retrocardiac opacity c/w
   pneumonia and small b/l pleural effusions; started vanc/Zosyn.  Culture
   data no growth to date.  Bedside echo not done - but IMPORTANT needs
   ECHO first thing in AM..order is in but need to call down as soon as
   they come in.
   Allergies:
   Codeine
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-1-3**] 08:22 PM
   Vancomycin - [**2171-1-3**] 09:40 PM
   Infusions:
   Lidocaine - 1 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-1-4**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-1-4**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 88 (70 - 92) bpm
   BP: 107/57(69) {83/40(51) - 111/72(80)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
    CVP: 8 (7 - 11)mmHg
   Total In:
                                                                  1,503 mL
                                                                    207 mL
   PO:
                                                                    710 mL
   TF:
   IVF:
                                                                    793 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                    150 mL
   Urine:
                                                                  1,970 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -467 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   GENERAL: Diaphoretic male, appears uncomfortable, moaning in pain.
   Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Right pupil RRL, Anasacoria of left
   pupil EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI laterally displaced RR, normal S1, ? paradoxically spit
   s2, + s4, [**2-14**] early intiated blowing murmur loudest at apex. No
   thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Trace UE edema, no pre-tibeal edema
   SKIN: ? infected papule in LUE, LLE slightly cool
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Labs / Radiology
   320 K/uL
   11.9 g/dL
   95 mg/dL
   1.2 mg/dL
   31 mEq/L
   3.8 mEq/L
   35 mg/dL
   99 mEq/L
   137 mEq/L
   34.7 %
   13.4 K/uL
        [image002.jpg]
                            [**2171-1-2**]  10:22 PM
                            [**2171-1-3**]  05:01 AM
                            [**2171-1-3**]  05:30 PM
   WBC
   16.0
   16.1
   13.4
   Hct
   38.9
   34.7
   Plt
   361
   320
   Cr
   1.2
   1.2
   Glucose
   103
   95
   Other labs: PT / PTT / INR:15.2/23.5/1.3, ALT / AST:36/51, Alk Phos / T
   Bili:82/0.9, Differential-Neuts:90.1 %, Lymph:6.3 %, Mono:2.8 %,
   Eos:0.6 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:479 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   CXR:
   Single portable radiograph of the chest demonstrates no interval change
   in the
   right internal jugular central venous catheter, seen on the chest
   radiograph
   obtained nine hours prior. No pneumothorax. Cardiomediastinal contours
   are
   unchanged. There is megaly. There are small bilateral pleural effusions
   and
   mild bibasilar atelectasis. Increased airspace opacity involving both
   lungs
   persists, although somewhat less conspicuous than seen previously.
   Increased
   airspace opacity involving the left lower lung corresponds to the
   retrocardiac
   opacity seen on the previous study. The trachea is midline. No
   pneumothorax.
   BCx and UCx: NGTD
   Assessment and Plan
   Pt is a 74 y/o male with a hx of idopathic CM, CHF w/ reported BIV/ICD/
   VT on amioderone, p/w VT and ICD firings to an OSH, now transfered for
   further care.
   .
   # CORONARIES:  Patient denies history of MI or CP, and no hx of CAD per
   OSH records.  Will try to tease out more history from PCP on friday.
   .
   # PUMP:  Per report, hx of idiopathic CM, unknown EF.  Patient
   currently euovelemic, with no impressive LE edema and JVP at 8cm.
   Patient  with Biv-ICD, but LV appeared to be in an ineffective location
   with LBBB on EKG and abnormal placement on CXR.  LV lead now turned
   off.
   - cont home regimen of [**Last Name (un) **], Carvedilol, Spironolactone, and Lasix
   - hold digoxin in setting of VT
   - clarify patients PMHx today
   - TTE this morning
   .
   # RHYTHM:  Patient with multiple recurrent VT and ICD firings, but no
   EKG of VT in records or EPS performed at OSH.  Unclear if patient
   symptomatic during episodes.  Per records, some attempt at ablation,
   but aborted [**2-10**] to hypoxia/hypotension.  Patient currently in
   A-sense/V-paced rhythm.  Was transfered on amioderone/lidocaine gtt.
   Lidocaine was discondintinued and amio switched to PO amio.  Patient
   with frequent NSVT testerday, and lido and amio were both restarted on
   gtt.
   - switch amio to 400mg daily and lido at 1
   - planned EP study today, was initially going to delay [**2-10**] to
   infection, but will expedite given frequent NSVT.  Patient with likely
   epicardial focus, and will require epicardial mapping and possible
   ablation.  Given infection, however, will defer for now.
   - unclear why patient was on coumadin, no AF in last month on PPM, wil
   clarify today.
   .
   # Infection:  Patient spiked fever on arrival of 101.2, but afebrile
   sinse.  RLL PNA on CXR.  As was in hospital for last 10 days, now on
   vanc/zosyn. Blood cultures/urine cultures NGTD.  No other infectious
   source.
   -          cont vanc/zosyn
   -          send sputumc cx
   -          f/u blood culture
   -          CIS
   -          Tylenol PRN
   .
   # Hypothyroidism:  Patient with markedly elevated TSH at OSH.  Will
   recheck here.
   .
   #  Hyperlipidemia:  will cont lipitor
   .
   #  Axiety/?AMS:  Patient on benzo's at OSH.  While appears anxious,
   unclear if MS altered from baseline.
   - hold anxietolytics for now
   - will check lytes, LFts, CBC
   .
   FEN: NPO for now
   ACCESS: Only with 24 gauge in foot, and unable to get in other PIVs,
   will placed CVL
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Pain managment with tylenol
   -Bowel regimen
   CODE: Full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-1-3**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-01-05 06:19:00 Physician Resident Progress Note
Chief Complaint: VT
   24 Hour Events:
   - Attempted VT ablation, could not induce rhythm during procedure, few
   ablations done - plan for potential epicardial ablation early next week
   if clears infection
   - Extubated post-procedure and then reintubated, remained so overnight
   - on Fentanyl/Versed, NG tube placed
   - Given 20mg IV Lasix in EP lab followed by 60mg IV on arrival to the
   floor with good diuresis
   - ECHO - EF 20-25% with akinesis inferior, inferolateral, lateral
   walls, distal [**1-11**] LV as well as severe focal hypokinesis of apical free
   wall of RV
   - Spiked temp to 102 @ 3pm
   - Creatinine bump to 1.6, held [**Last Name (un) **]
   - Hypotensive at 5am w/ MAP 50, given 500cc bolus
 CARDIAC CATH - At [**2171-1-4**] 08:00 AM
   Pt sent to cath lab at 0800 for EP proceedure. Echo being done in
   holding area. All consents signed
 INVASIVE VENTILATION - START [**2171-1-4**] 12:22 PM
 SPUTUM CULTURE - At [**2171-1-4**] 01:15 PM
 BLOOD CULTURED - At [**2171-1-4**] 03:00 PM
 URINE CULTURE - At [**2171-1-4**] 03:00 PM
 BLOOD CULTURED - At [**2171-1-4**] 03:30 PM
 FEVER - 101.8
F - [**2171-1-4**] 12:30 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Codeine
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2171-1-3**] 09:40 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-1-5**] 03:55 AM
   Infusions:
   Lidocaine - 1 mg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Midazolam (Versed) - [**2171-1-4**] 12:50 PM
   Heparin Sodium (Prophylaxis) - [**2171-1-4**] 04:00 PM
   Pantoprazole (Protonix) - [**2171-1-4**] 08:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Intubated
   Flowsheet Data as of  [**2171-1-5**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.8
   HR: 62 (60 - 94) bpm
   BP: 80/45(53) {80/45(53) - 118/71(80)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,584 mL
                                                                    560 mL
   PO:
             TF:
   IVF:
                                                                  1,584 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  1,465 mL
                                                                    275 mL
   Urine:
                                                                  1,335 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    119 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.48/33/186/30/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 372
   Physical Examination
   GENERAL: Intubated and sedated.  Appears chronically ill.
   HEENT: NCAT. Sclera anicteric. Right pupil RRL, Anasacoria of left
   pupil EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI laterally displaced RR, normal S1, ? paradoxically spit
   s2, + s4, [**2-14**] early intiated blowing murmur loudest at apex. No
   thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. CTA B/l
   anteriorally, but could not assess otherwise.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Trace UE edema, no pre-tibeal edema
   SKIN: ? infected papule in LUE, LLE slightly cool
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Labs / Radiology
   243 K/uL
   10.7 g/dL
   100 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.6 mEq/L
   35 mg/dL
   103 mEq/L
   141 mEq/L
   31.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2171-1-2**]  10:22 PM
                            [**2171-1-3**]  05:01 AM
                            [**2171-1-3**]  05:30 PM
                            [**2171-1-4**]  06:00 AM
                            [**2171-1-4**]  01:36 PM
                            [**2171-1-4**]  05:00 PM
                            [**2171-1-5**]  03:29 AM
   WBC
   16.0
   16.1
   13.4
   19.0
   13.2
   Hct
   38.9
   34.7
   37.5
   31.2
   Plt
   [**Telephone/Fax (3) 3545**]43
   Cr
   1.2
   1.2
   1.2
   1.6
   1.6
   TCO2
   25
   Glucose
   103
   95
   94
   111
   100
   Other labs: PT / PTT / INR:15.1/25.3/1.3, ALT / AST:36/51, Alk Phos / T
   Bili:82/0.9, Differential-Neuts:90.1 %, Lymph:6.3 %, Mono:2.8 %,
   Eos:0.6 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL, LDH:479 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   TTE:
   The left atrium is mildly dilated. Left ventricular wall thicknesses
   are normal. The left ventricular cavity is severely dilated. There is
   an inferobasal left ventricular aneurysm. There is severe regional left
   ventricular systolic dysfunction with akinesis of the inferior,
   inferolateral and lateral walls, as well as the distal [**1-11**] of the
   ventricle. Anterior and septal wall function is relatively preserved,
   though not normal (LVEF = 20-25%). The right ventricular cavity is
   mildly dilated with severe focal hypokinesis of the apical free wall,
   and milder hypokinesis of the rest of the free wall. The aortic valve
   leaflets (3) are mildly thickened but aortic stenosis is not present.
   Mild to moderate ([**1-10**]+) aortic regurgitation is seen. Mitral valve
   leaflets are mildly thickened. There is bileaflet systolic tenting,
   secondary to LV dilatation and chordal tension. There is no mitral
   valve prolapse. A slightly eccentric, posteriorly-directed jet of
   moderate to severe (3+) mitral regurgitation is seen. There is severe
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   IMPRESSION: Dilated left ventricle with an inferobasal LV aneurysm and
   severe regional systolic dysfunction. Regional right ventricular
   dysfunction. Mild to moderate aortic regurgitation. Moderate to severe
   mitral regurgitation. Severe pulmonary hypertension.
   CXR:
   NG tube within the stomach. Left lower lobe opacification worsening,
   concerning for pneumonia.
   UCX and BCX NGTD
   Assessment and Plan
   Pt is a 74 y/o male with a hx of idopathic CM, CHF w/ reported BIV/ICD/
   VT on amioderone, p/w VT and ICD firings to an OSH, now transfered for
   further care.
   .
   # CORONARIES:  Patient denies history of MI or CP, and no hx of CAD per
   OSH records.  Will try to tease out more history from PCP on friday.
   .
   # PUMP:  Per report, hx of idiopathic CM, but has more regional
   dysfunction on TTE.  Patient currently euovelemic on exam.  No fluid
   overload on CXR, CVP at 7cm.  Patient with severe regional
   biventricular dysfunction with EF of 20% on TTE.  Also with 3+ MR and
   2+ AR.  Patient has Biv-ICD, but with an ineffective LV lead now
   disabled.  Patient with cold extremities, with evidence of poor
   systolic function.  Patient given 20mg and 60mg of IV lasix yesterday
   with 1.5 L of urine output.  Reportedly even for the day.  Now with
   lower blood pressure.  Unclear if sepsis vs. cargiogenic shock. Had
   augmented with fluid boluses, arguing for more septic picture.
   However, MR [**First Name (Titles) 3548**] [**Last Name (Titles) 3549**] on exam, and with chilled extremities,
   cardiogenic shock also highly considered.
   - cont home regimen of [**Last Name (un) **], Carvedilol, Spironolactone, an lasix (may
   need larger IV dose in cath lab intake was larger).  Will hold morning
   doses in the secondary to hypotension.
   - hold digoxin in setting of VT
   - will re-activate LV lead, and attempt to optimize with echo to see if
   improves BP and MR.
   - Will reset PPM to DDD-R, with increasing HR to 75 to augment CO.
   - will float a swan to tease out hemodynamic state, and possibly
   augment with dopamine if blood pressure remains low and swan shows poor
   cardiac output.
   .
   # RHYTHM:  Patient with multiple recurrent VT and ICD firings, but no
   EKG of VT in records or EPS performed at OSH.  Unclear if patient
   symptomatic during episodes.  Per records, some attempt at ablation,
   but aborted [**2-10**] to hypoxia/hypotension.  Patient currently in
   A-sense/V-paced rhythm.  Was transfered on amioderone/lidocaine gtt.
   Had frequent NSVT after stopping lidocaine, with patern suggesting left
   posterolateral origin, likely more epicardial focus.  Patient always
   ATP paced out of rhythm.  Despite infection, VT ablation performed
   yesterday due to concern of stability over weekend.  Could not induce
   arrhythmia on endocaridal ablation.
   - cont amio, but switched to 400mg PO BID
   - cont lidocaine, but decrease to 0.5 mg/min
   - patient unlikely to tolerate epicardial mapping and possible repeat
   ablation at this time
   - unclear why patient was on coumadin, no evidence of AF on
   interrogation in last month, will clarify on Monday with cardiologist
   - deactivated LV lead, will reactivate
   .
   # Fever:  Patient with temp of 102 again yesterday.  Improving
   leukocytosis and left shift, which was attributed to stress at OSH.
   Likely PNA, as seen bilaterally on CXR with slight worsening.  UA
   unremarkable, and BCX no growth to date.  Sputum Cx without grown.  On
   vanc/zosyn, day [**3-19**].  Patient had to be re-intubated post-procedure.
   - CIS
   - cont vanc/zosyn
   - f/u CXs
   - tylenol PRN
   - send repeat sputum culture while intubated.
   - wean vent to minimal settings, but will leave intubated for now.
   .
   # Respiratory difficulties:  Patient had a PNA prior to intubation, but
   had been oxygenating well, although was slightly tachypnic.  After
   extubation, did not oxygenate well, requiring re-intubation.  Worsening
   of PNA on CXR.
   -cont vac/zosyn
   - ween vent over course of the day.
   .
   #Hypotension: Unclear why new hypotension.  Septic vs. cardiogenic
   shock.   While may be due to sedation, has [**Month/Year (2) 3549**] since going down on
   medications.  Not significantly fluid up to suggest [**Month/Year (2) 3549**] heart
   failure. No pulsus, muffled heart sounds, elevated JVP, to suggest
   tamponade post procedure.  Pressures improved with fluid bolus.  Has
   [**Month/Year (2) 3549**] MR [**First Name (Titles) **] [**Last Name (Titles) 3550**] down extremities.
   -          float swan to better understand hemodynamics
   -          re-activate LV lead and set to DDDR to augment CO
   -          Hold BP and diuretic meds
   .
   # Hypothyroidism:  Patient with markedly elevated TSH at OSH.  Normal
   here.
   .
   # Hyperlipidemia:  will cont lipitor
   .
   # Anxiety/?AMS:  Patient on benzo's at OSH.  While appears anxious,
   unclear if MS altered from baseline.
   - hold anxietolytics for now
   - will check lytes, LFts, CBC
   .
   FEN: NPO for now
   ACCESS: RIJ placed [**1-2**]
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Pain managment with tylenol
   -Bowel regimen
   CODE: Full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-1-3**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2171-01-06 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Patient's LV lead was reactivated and optimized with TTE guidance.
   Found to possibly have improved MR, with more eccentric jet with
   simultaneous LV pacing with 7amps of current.  Only minimal improvement
   in conduction delay on EKG.
   -- Blood pressures, which were low in the morning, were augmented LV
   pacing, with systolics > 100 throughout the day.  Decision was made to
   hold on PA catheter and hemodynamic assessment.
   -- Patients FiO2 decreased to 40% and switched over to pressure
   support, and tolerated well.
   -- amioderone was switched to 400mg PO BID and lidocaine was reduced to
   0.5mg/min, with infrequent PVCs and no NSVT until overnight, where he
   had 2 episodes of NSVT, 12 beats longest in duration, self-broken.
   Potassium was low, and was repleated.  Held off on increasing lidocaine
   back to 1mg/min
   Allergies:
   Codeine
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2171-1-5**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-1-6**] 04:31 AM
   Infusions:
   Lidocaine - 0.5 mg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-1-5**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-1-6**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 75 (65 - 90) bpm
   BP: 101/54(66) {85/46(54) - 115/66(77)} mmHg
   RR: 14 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
    CVP: 11 (6 - 11)mmHg
   Total In:
                                                                  2,359 mL
                                                                    218 mL
   PO:
   TF:
   IVF:
                                                                  1,939 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    445 mL
   Urine:
                                                                  1,410 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    949 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 407 (343 - 485) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 82
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.50/34/182/29/4
   Ve: 7.6 L/min
   PaO2 / FiO2: 455
   Physical Examination
   GENERAL: Diaphoretic male, intubated and sedated..
   HEENT: NCAT. Sclera anicteric. Right pupil RRL, Anasacoria of left
   pupil EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with distended external jugulars, but JVP at 8cm
   CARDIAC: PMI laterally displaced RR, normal S1, ? paradoxically spit
   s2, + s4, [**3-15**] early intiated, high-pitched  blowing murmur loudest at
   apex. [**1-14**] crecendo-decrecendo murmur heard loudest at the base without
   radiation.  [**2-14**] blowing murmur at LSB.  No thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Increased 2+  UE pitting edema edema, no pre-tibeal edema
   SKIN: ? infected papule in LUE, LLE slightly cool, new blister on RUE
   Labs / Radiology
   223 K/uL
   10.9 g/dL
   75 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.4 mEq/L
   30 mg/dL
   104 mEq/L
   140 mEq/L
   32.3 %
   14.0 K/uL
        [image002.jpg]
                            [**2171-1-3**]  05:01 AM
                            [**2171-1-3**]  05:30 PM
                            [**2171-1-4**]  06:00 AM
                            [**2171-1-4**]  01:36 PM
                            [**2171-1-4**]  05:00 PM
                            [**2171-1-5**]  03:29 AM
                            [**2171-1-5**]  06:12 AM
                            [**2171-1-5**]  08:00 AM
                            [**2171-1-5**]  04:57 PM
                            [**2171-1-6**]  03:05 AM
   WBC
   16.1
   13.4
   19.0
   13.2
   14.0
   14.0
   Hct
   34.7
   37.5
   31.2
   33.2
   32.3
   Plt
   [**Telephone/Fax (3) 3578**]69
   223
   Cr
   1.2
   1.2
   1.6
   1.6
   1.2
   TCO2
   25
   28
   27
   Glucose
   95
   94
   111
   100
   75
   Other labs: PT / PTT / INR:15.1/25.3/1.3, ALT / AST:36/51, Alk Phos / T
   Bili:82/0.9, Differential-Neuts:90.1 %, Lymph:6.3 %, Mono:2.8 %,
   Eos:0.6 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:479 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: TTE from LV lead Adjustment:
   The left atrium is moderately dilated. Left ventricular wall
   thicknesses are normal. The left ventricular cavity is severely dilated
   with severe regional systolic dysfunction including akinesis of the
   inferolateral and anterolateral walls. Overall LVEF is ~25%. No masses
   or thrombi are seen in the left ventricle. [Intrinsic left ventricular
   systolic function is likely more depressed given the severity of
   valvular regurgitation.] The right ventricular cavity is mildly dilated
   with moderate global free wall hypokinesis. The aortic valve leaflets
   (3) are mildly thickened but aortic stenosis is not present. Moderate
   (2+) aortic regurgitation is seen. The mitral valve leaflets are mildly
   thickened. The effective regurgitant orifice is >=0.40cm2. Severe (4+)
   mitral regurgitation is seen. The tricuspid valve leaflets are mildly
   thickened. There is no pericardial effusion.
   Microbiology: Sputum, Blood, and UCx:  NGTD
   Assessment and Plan
   Pt is a 74 y/o male with a hx of idopathic CM, CHF w/ reported BIV/ICD/
   VT on amioderone, p/w VT and ICD firings to an OSH, now transfered for
   further care.
   .
   # CORONARIES:  Patient denies history of MI or CP, and no hx of CAD per
   OSH records.  Will try to tease out more history from PCP on friday.
   .
   # PUMP:  Per report, hx of idiopathic CM, but has more regional
   dysfunction on TTE.  Patient currently euovelemic on exam.  No fluid
   overload on CXR, CVP at 7cm.  Patient with severe regional
   biventricular dysfunction with EF of 20% on TTE.  Also with 3+ MR and
   2+ AR.  Patient has Biv-ICD, but with an ineffective LV lead now
   disabled.  Patient with cold extremities, with evidence of poor
   systolic function.  Patient given 20mg and 60mg of IV lasix yesterday
   with 1.5 L of urine output.  Reportedly even for the day.  Now with
   lower blood pressure.  Unclear if sepsis vs. cargiogenic shock. Had
   augmented with fluid boluses, arguing for more septic picture.
   However, MR [**First Name (Titles) 3548**] [**Last Name (Titles) 3549**] on exam, and with chilled extremities,
   cardiogenic shock also highly considered.
   - cont home regimen of [**Last Name (un) **], Carvedilol, Spironolactone, an lasix (may
   need larger IV dose in cath lab intake was larger).  Will hold morning
   doses in the secondary to hypotension.
   - hold digoxin in setting of VT
   - will re-activate LV lead, and attempt to optimize with echo to see if
   improves BP and MR.
   - Will reset PPM to DDD-R, with increasing HR to 75 to augment CO.
   - will float a swan to tease out hemodynamic state, and possibly
   augment with dopamine if blood pressure remains low and swan shows poor
   cardiac output.
   .
   # RHYTHM:  Patient with multiple recurrent VT and ICD firings, but no
   EKG of VT in records or EPS performed at OSH.  Unclear if patient
   symptomatic during episodes.  Per records, some attempt at ablation,
   but aborted [**2-10**] to hypoxia/hypotension.  Patient currently in
   A-sense/V-paced rhythm.  Was transfered on amioderone/lidocaine gtt.
   Had frequent NSVT after stopping lidocaine, with patern suggesting left
   posterolateral origin, likely more epicardial focus.  Patient always
   ATP paced out of rhythm.  Despite infection, VT ablation performed
   yesterday due to concern of stability over weekend.  Could not induce
   arrhythmia on endocaridal ablation.
   - cont amio, but switched to 400mg PO BID
   - cont lidocaine, but decrease to 0.5 mg/min
   - patient unlikely to tolerate epicardial mapping and possible repeat
   ablation at this time
   - unclear why patient was on coumadin, no evidence of AF on
   interrogation in last month, will clarify on Monday with cardiologist
   - deactivated LV lead, will reactivate
   .
   # Fever:  Patient with temp of 102 again yesterday.  Improving
   leukocytosis and left shift, which was attributed to stress at OSH.
   Likely PNA, as seen bilaterally on CXR with slight worsening.  UA
   unremarkable, and BCX no growth to date.  Sputum Cx without grown.  On
   vanc/zosyn, day [**3-19**].  Patient had to be re-intubated post-procedure.
   - CIS
   - cont vanc/zosyn
   - f/u CXs
   - tylenol PRN
   - send repeat sputum culture while intubated.
   - wean vent to minimal settings, but will leave intubated for now.
   .
   # Respiratory difficulties:  Patient had a PNA prior to intubation, but
   had been oxygenating well, although was slightly tachypnic.  After
   extubation, did not oxygenate well, requiring re-intubation.  Worsening
   of PNA on CXR.
   -cont vac/zosyn
   - ween vent over course of the day.
   .
   #Hypotension: Unclear why new hypotension.  Septic vs. cardiogenic
   shock.   While may be due to sedation, has [**Month/Year (2) 3549**] since going down on
   medications.  Not significantly fluid up to suggest [**Month/Year (2) 3549**] heart
   failure. No pulsus, muffled heart sounds, elevated JVP, to suggest
   tamponade post procedure.  Pressures improved with fluid bolus.  Has
   [**Month/Year (2) 3549**] MR [**First Name (Titles) **] [**Last Name (Titles) 3550**] down extremities.
   -               float swan to better understand hemodynamics
   -               re-activate LV lead and set to DDDR to augment CO
   -               Hold BP and diuretic meds
   .
   # Hypothyroidism:  Patient with markedly elevated TSH at OSH.  Normal
   here.
   .
   # Hyperlipidemia:  will cont lipitor
   .
   # Anxiety/?AMS:  Patient on benzo's at OSH.  While appears anxious,
   unclear if MS altered from baseline, if so, may be secondary to
   infection vs. lidocaine toxicity.  Patient now sedated for intubation
   .
   FEN: NPO for now
   ACCESS: RIJ placed [**1-2**]
   PROPHYLAXIS:
   -DVT ppx with heparin sc
   -Pain managment with tylenol
   -Bowel regimen
   CODE: Full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-1-3**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-01-07 05:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   remained on AC overnight
   negative 900cc after Lasix 60mg IV x1
   Lidocaine changed to Mexilitine
   RSBI 32 (Spont TV 250, Spont RR 8)
   Allergies:
   Codeine
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2171-1-6**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-1-6**] 01:00 PM
   Piperacillin - [**2171-1-7**] 04:16 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-1-7**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-1-7**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 75 (75 - 113) bpm
   BP: 98/55(64) {87/47(56) - 123/75(86)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
    CVP: 3 (2 - 20)mmHg
   Total In:
                                                                  1,533 mL
                                                                    302 mL
   PO:
   TF:
                                                                    401 mL
                                                                    164 mL
   IVF:
                                                                    712 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    485 mL
   Urine:
                                                                  2,470 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -937 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 347 (330 - 407) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.50/32/182/26/2
   Ve: 7.2 L/min
   PaO2 / FiO2: 455
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   102 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.6 mEq/L
   28 mg/dL
   104 mEq/L
   138 mEq/L
   32.5 %
   11.3 K/uL
        [image002.jpg] Ca 7.9, Mg 2.1, Phos 2.1
                            [**2171-1-4**]  06:00 AM
                            [**2171-1-4**]  01:36 PM
                            [**2171-1-4**]  05:00 PM
                            [**2171-1-5**]  03:29 AM
                            [**2171-1-5**]  06:12 AM
                            [**2171-1-5**]  08:00 AM
                            [**2171-1-5**]  04:57 PM
                            [**2171-1-6**]  03:05 AM
                            [**2171-1-6**]  07:37 AM
                            [**2171-1-6**]  03:09 PM
   WBC
   19.0
   13.2
   14.0
   14.0
   Hct
   37.5
   31.2
   33.2
   32.3
   Plt
   382
   243
   269
   223
   Cr
   1.2
   1.6
   1.6
   1.2
   1.3
   TCO2
   25
   28
   27
   26
   Glucose
   94
   111
   100
   75
   93
   Other labs: PT / PTT / INR:15.1/25.3/1.3, ALT / AST:36/51, Alk Phos / T
   Bili:82/0.9, Differential-Neuts:90.1 %, Lymph:6.3 %, Mono:2.8 %,
   Eos:0.6 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:479 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 CARDIOMYOPATHY, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 VENTRICULAR TACHYCARDIA, SUSTAINED
   Pt is a 74 y/o male with a hx of idopathic CM, CHF w/ reported BIV/ICD/
   VT on amioderone, p/w VT and ICD firings to an OSH, now transfered for
   further care.
   .
   # CORONARIES:  Patient denies history of MI or CP, and no hx of CAD per
   OSH records.  Will try to tease out more history from PCP.
   .
   # PUMP:  hx of dilated idiopathic CM, but has regional dysfunction on
   TTE, anterolateral and inferolateral akinesis.  Patient with severe
   regional biventricular dysfunction with EF of 20% on TTE.  Also with 3+
   MR and 2+ AR.  Patient has Biv-ICD, and with an ineffective LV lead
   disabled.  Hypotensive [**1-5**] to SBP 80
s, unclear if hypotension was
   due to cardiogenic vs. septic shock.  Underwent EP study [**1-5**] with LV
   lead increased to 7 amps.  Also  reset PPM to DDD-R, with increasing HR
   to 75 to augment CO.    Blood pressure subsequently improved to SBP
   100
s.  Crackles on exam [**1-6**], with bilateral upper extremity 3+
   edema.   Had good output to IV bolus of Lasix yesterday.
   - change Lasix to home PO dose
   - continue home doses of carvedilol and spironolactone
   - I/O goal even for today
   .
   # RHYTHM:  Patient with multiple recurrent VT and ICD firings, but no
   EKG of VT in records or EPS performed at OSH.  Unclear if patient
   symptomatic during episodes.  Per records, some attempt at ablation,
   but aborted [**2-10**] to hypoxia/hypotension.  Was transfered on
   amioderone/lidocaine gtt.  Had frequent NSVT after stopping lidocaine,
   with pattern suggesting left posterolateral origin, likely more
   epicardial focus.  Patient always ATP paced out of rhythm.  Despite
   infection, VT ablation performed yesterday due to concern of stability
   over weekend.  Could not induce arrhythmia on endocaridal ablation.
   Lidocaine weaned down to .5mg/min [**1-5**].  Changed to Mexilitine
   yesterday, with only couplets overnight.
   - continue amiodarone at 400mg PO BID
   - continue mexilitine 150mg PO TID
   - patient unlikely to tolerate epicardial mapping and possible repeat
   ablation at this time
   - unclear why patient was on coumadin, no evidence of AF on
   interrogation in last month, will clarify with cardiologist
   - avoid digoxin given VT
   .
   # PNA:  Patient with history of fever and leukocytosis, b/l infiltrates
   on CXR  On vanc/zosyn, day [**5-19**].  Patient had to be re-intubated
   post-procedure.
   - CIS
   - cont vanc/zosyn [**5-19**]
   - f/u CXs
   - tylenol PRN
   .
   # Respiratory Status:  Patient had a PNA prior to intubation, but had
   been oxygenating well, although was slightly tachypnic.  After
   extubation, did not oxygenate well, requiring re-intubation.  Worsening
   of PNA on CXR.  RSBI 82 but very tachypneic. Bilateral crackles on exam
   [**1-6**], was 1L positive over 24 hours.  Diuresed well to IV Lasix bolus
   yesterday, with improved lung sounds and aeration on exam today.
   - transition from AC to PS ventilation, attempt SBT and extubation
   today
   .
   #Hypotension: Septic vs. cardiogenic shock.   Pressures improved with
   fluid bolus, and increasing LV lead to 7 amps, increasing HR to 75.
   BP meds were held [**1-5**].  BP improved and stabilized after resumption
   of Lasix.
   - continue home doses of carvedilol, spironolactone, and Lasix
   .
   # Hypothyroidism:  Patient with markedly elevated TSH at OSH.  Normal
   here.
   .
   # Hyperlipidemia:  will cont lipitor
   .
   # Anxiety/?AMS:  Patient on benzo's at OSH.  While appears anxious,
   unclear if MS altered from baseline, if so, may be secondary to
   infection vs. lidocaine toxicity.
   - lighten sedation for extubation
   - reassess post-extubation
   ICU Care
   Nutrition: NPO for extubation, consider Regular diet afterwards
   Glycemic Control:  well-controlled
   Lines: RIJ
   Multi Lumen - [**2171-1-3**] 02:00 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments: Tylenol, bowel regimen
   Communication:  Comments:
   Code status: FULL CODE
   Disposition: CCU

2171-01-08 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2171-1-7**] 01:15 PM
 NASAL SWAB - At [**2171-1-7**] 05:00 PM
   Extubated
   Zofran for nausea
   Allergies:
   Codeine
   Unknown;
   Demerol (Oral) (Meperidine Hcl)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-1-6**] 01:00 PM
   Vancomycin - [**2171-1-7**] 08:00 AM
   Piperacillin - [**2171-1-8**] 04:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2171-1-7**] 08:18 PM
   Heparin Sodium (Prophylaxis) - [**2171-1-8**] 12:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-1-8**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.3
C (97.4
   HR: 80 (75 - 92) bpm
   BP: 97/57(67) {91/47(58) - 113/71(80)} mmHg
   RR: 26 (12 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
    CVP: 8 (0 - 12)mmHg
   Total In:
                                                                  1,333 mL
                                                                    200 mL
   PO:
                                                                    360 mL
   TF:
                                                                    164 mL
   IVF:
                                                                    689 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,066 mL
                                                                    320 mL
   Urine:
                                                                  3,066 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,733 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 276 (276 - 370) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 32
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.45/40/131/32/4
   Ve: 11.9 L/min
   PaO2 / FiO2: 328
   Physical Examination
   GENERAL: Diaphoretic male, appears uncomfortable, moaning in pain.
   Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Right pupil RRL, Anasacoria of left
   pupil EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI laterally displaced RR, normal S1, ? paradoxically spit
   s2, + s4, [**2-14**] early intiated blowing murmur loudest at apex. No
   thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: Trace UE edema, no pre-tibeal edema
   SKIN: ? infected papule in LUE, LLE slightly cool
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP diminished
   Labs / Radiology
   228 K/uL
   11.7 g/dL
   92 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.3 mEq/L
   22 mg/dL
   102 mEq/L
   141 mEq/L
   34.7 %
   13.4 K/uL
        [image002.jpg]
                            [**2171-1-5**]  04:57 PM
                            [**2171-1-6**]  03:05 AM
                            [**2171-1-6**]  07:37 AM
                            [**2171-1-6**]  03:09 PM
                            [**2171-1-7**]  03:30 AM
                            [**2171-1-7**]  04:45 AM
                            [**2171-1-7**]  09:30 AM
                            [**2171-1-7**]  01:07 PM
                            [**2171-1-7**]  06:13 PM
                            [**2171-1-8**]  03:12 AM
   WBC
   14.0
   13.8
   11.3
   11.2
   13.4
   Hct
   32.3
   38.9
   32.5
   31.8
   34.7
   Plt
   223
   260
   230
   220
   228
   Cr
   1.2
   1.3
   1.1
   1.1
   1.1
   1.1
   TCO2
   27
   26
   29
   Glucose
   75
   93
   102
   126
   119
   92
   Other labs: PT / PTT / INR:15.7/27.6/1.4, ALT / AST:36/51, Alk Phos / T
   Bili:82/0.9, Differential-Neuts:90.1 %, Lymph:6.3 %, Mono:2.8 %,
   Eos:0.6 %, Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, LDH:479 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, [**Hospital 2293**] HOSPITAL ACQUIRED (NON-VAP)
 CARDIOMYOPATHY, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 VENTRICULAR TACHYCARDIA, SUSTAINED
   Pt is a 74 y/o male with a hx of idopathic CM, CHF w/ reported BIV/ICD/
   VT on amioderone, p/w VT and ICD firings to an OSH, now transfered for
   further care.
   .
   # CORONARIES:  Patient denies history of MI or CP, and no hx of CAD per
   OSH records.  Will try to tease out more history from PCP.
   .
   # PUMP:  hx of dilated idiopathic CM, but has regional dysfunction on
   TTE, anterolateral and inferolateral akinesis.  Patient with severe
   regional biventricular dysfunction with EF of 20% on TTE.  Also with 3+
   MR and 2+ AR.  Patient has Biv-ICD, and with an ineffective LV lead
   disabled.  Hypotensive [**1-5**] to SBP 80
s, unclear if hypotension was
   due to cardiogenic vs. septic shock.  Underwent EP study [**1-5**] with LV
   lead increased to 7 amps.  Also  reset PPM to DDD-R, with increasing HR
   to 75 to augment CO.    Blood pressure subsequently improved to SBP
   100
s.  Crackles on exam [**1-6**], with bilateral upper extremity 3+
   edema.   Had good output to IV bolus of Lasix yesterday.
   - change Lasix to home PO dose
   - continue home doses of carvedilol and spironolactone
   - I/O goal even for today
   .
   # RHYTHM:  Patient with multiple recurrent VT and ICD firings, but no
   EKG of VT in records or EPS performed at OSH.  Unclear if patient
   symptomatic during episodes.  Per records, some attempt at ablation,
   but aborted [**2-10**] to hypoxia/hypotension.  Was transfered on
   amioderone/lidocaine gtt.  Had frequent NSVT after stopping lidocaine,
   with pattern suggesting left posterolateral origin, likely more
   epicardial focus.  Patient always ATP paced out of rhythm.  Despite
   infection, VT ablation performed yesterday due to concern of stability
   over weekend.  Could not induce arrhythmia on endocaridal ablation.
   Lidocaine weaned down to .5mg/min [**1-5**].  Changed to Mexilitine
   yesterday, with only couplets overnight.
   - continue amiodarone at 400mg PO BID
   - continue mexilitine 150mg PO TID
   - patient unlikely to tolerate epicardial mapping and possible repeat
   ablation at this time
   - unclear why patient was on coumadin, no evidence of AF on
   interrogation in last month, will clarify with cardiologist
   - avoid digoxin given VT
   .
   # PNA:  Patient with history of fever and leukocytosis, b/l infiltrates
   on CXR  On vanc/zosyn, day [**5-19**].  Patient had to be re-intubated
   post-procedure.
   - CIS
   - cont vanc/zosyn [**5-19**]
   - f/u CXs
   - tylenol PRN
   .
   # Respiratory Status:  Patient had a PNA prior to intubation, but had
   been oxygenating well, although was slightly tachypnic.  After
   extubation, did not oxygenate well, requiring re-intubation.  Worsening
   of PNA on CXR.  RSBI 82 but very tachypneic. Bilateral crackles on exam
   [**1-6**], was 1L positive over 24 hours.  Diuresed well to IV Lasix bolus
   yesterday, with improved lung sounds and aeration on exam today.
   - transition from AC to PS ventilation, attempt SBT and extubation
   today
   .
   #Hypotension: Septic vs. cardiogenic shock.   Pressures improved with
   fluid bolus, and increasing LV lead to 7 amps, increasing HR to 75.
   BP meds were held [**1-5**].  BP improved and stabilized after resumption
   of Lasix.
   - continue home doses of carvedilol, spironolactone, and Lasix
   .
   # Hypothyroidism:  Patient with markedly elevated TSH at OSH.  Normal
   here.
   .
   # Hyperlipidemia:  will cont lipitor
   .
   # Anxiety/?AMS:  Patient on benzo's at OSH.  While appears anxious,
   unclear if MS altered from baseline, if so, may be secondary to
   infection vs. lidocaine toxicity.
   - lighten sedation for extubation
   - reassess post-extubation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-1-3**] 02:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: